2201-09-06 08:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2201-9-5**] 11:00 PM
   rt ij placed . placement confirmed by c xray
   -electively intubated overnight for increased CO2
   -CT Abd with contrast ordered to eval for necrotizing pancreatitis.
   Pretreated with methylprednisone, benadryl, famotidine last night.
   -increasing requirements of midazolam and fentanyl
probably etoh
   withdrawal.
   Allergies:
   Shellfish
   Anaphylaxis;
   Topamax (Oral) (Topiramate)
   Diarrhea;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2201-9-5**] 08:10 PM
   Midazolam (Versed) - [**2201-9-6**] 08:00 AM
   Fentanyl - [**2201-9-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-9-6**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 135 (130 - 147) bpm
   BP: 136/99(106) {121/65(70) - 155/110(120)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 24 (24 - 24)mmHg
   Total In:
                                                                  4,326 mL
                                                                  4,365 mL
   PO:
   TF:
   IVF:
                                                                  4,326 mL
                                                                  3,465 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                  1,335 mL
   Urine:
                                                                  1,060 mL
                                                                    985 mL
   NG:
                                                                    650 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,616 mL
                                                                  3,030 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.29/50/109/25/-2
   Ve: 8.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   13.3 g/dL
   252 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   11 mg/dL
   104 mEq/L
   139 mEq/L
   40.0 %
   26.7 K/uL
        [image002.jpg] BCx x2 P.  UCx P.
                             [**2201-9-5**]  07:46 PM
                             [**2201-9-6**]  01:58 AM
                             [**2201-9-6**]  02:29 AM
   WBC
   26.7
   Hct
   40.0
   Plt
   282
   Cr
   0.7
   TCO2
   20
   25
   Glucose
   252
   Other labs: PT / PTT / INR:14.2/26.6/1.2, ALT / AST:[**Telephone/Fax (1) 1390**], Alk Phos
   / T Bili:91/2.5, Amylase / Lipase:379/721, Lactic Acid:2.3 mmol/L,
   Albumin:3.8 g/dL, LDH:1300 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   37 y/o with PMHx of ETOH pancreatitis s/p distal pancreatectomy and
   splenectomy now transferred to [**Hospital Unit Name 1**] with severe pancreatitis, elevated
   lactate & anion gap, likely complicated by ETOH withdrawal.
   .
   # Pancreatitis: Pt with h/o severe pancreatitis c/b ARDS & requiring
   splenectomy and distal pancreatectomy. Pt presented with Ransons score
   of 1 but rising lactate and requiring aggressive IVF resussitation. Pt
   with new O2 requirement likely due to growing pleural effusions with
   some component of splinting due to pain.  Currently tachycardic &
   hypertensive, making adequate urine.  CT shows extensive inflammation,
   but unable to assess for necrosis without IV contrast. Will need repeat
   imagine after elective intubation to better assess for presence of
   necrosis.
   - Aggressive IV fluid boluses with LR &/or Levophed if needed to
   maintain MAP > 65 and UOP > 30cc/hr
   - f/u Surgery Recs, will need addl imaging CT vs MRI
CT Abdomen with
   contrast  -if necrotizing pancreatitis, surgical intervention.
   - add Imipenem if any e/o necrosis
   - Follow-up blood, urine cultures
   - Trend WBC count & fever curve
   - Strict NPO & place OG tube to intermittent suction
   # Sedation: Patient is on proprofol, Midazolam, and fentanyl, with
   increasing requirements.  Will attempt to wean proprofol.  H/o DTs from
   etoh withdrawal. Patient is currently 24-48 hours since last drink.
   .
   # ETOH Withdrawal: Pt was being treated with Diazepam 5mg q2hr for CIWA
   scale, will transition to Fentanyl & Midazolam gtt once intubated
   - SW consult once extubated
   - Midazolam gtt for now, titrate to adequate sedation
   .
   # Asthma: Pt on mainly different inhalers, unclear baseline reactive
   airway disease or degree of medication compliance
   - albuterol & atrovent nebs after intubated
   - f/u ABGs
   .
   # Hypertension: likely due to ETOH withdrawal vs pain
   - hold anti-HTN, treat withdrawal & pain with fentanyl/versed gtt
   .
   # Chronic Pain: Pt will be NPO on fentanyl gtt while intubated
   - will need to restart chronic pain regimen including Methadone after
   wean from vent
   .
   # Hyperlipidemia: holding Gemfibrozil given strict NPO
   .
   # FEN: NPO with OG tube to intermittent suction
   - replete lytes aggressively
   - aggressive IVF resussitation
   .
   # Access: 2 PIV, place CVL tonight
   .
   # PPx: IV PPI [**Hospital1 7**], Insulin SS, Bisacodyl PR prn
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm: with patient & mother [**Name (NI) 1374**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-9-5**] 06:37 PM
   18 Gauge - [**2201-9-5**] 08:30 PM
   Multi Lumen - [**2201-9-5**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Physical exam
   Gen: Intubated, sedated. NAD.
   Lungs: Diminished breath sounds at bases bilaterally, on anterior exam.
   CV: RRR. No murmurs.
   Abd: No bowel sounds. Distended. No peritoneal signs.
   Extremities: Warm, well perfused. No edema.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1394**] [**Name8 (MD) 1395**], MD
   on:[**2201-9-6**] 15:34 ------

2201-09-06 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 year old male with alcoholic pancreatitis
   24 Hour Events:
 MULTI LUMEN - START [**2201-9-5**] 11:00 PM
   rt ij placed . placement confirmed by c xray
   Overnight: intubated, CVL placed.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Shellfish
   Anaphylaxis;
   Topamax (Oral) (Topiramate)
   Diarrhea;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Fentanyl - 350 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2201-9-5**] 08:10 PM
   Midazolam (Versed) - [**2201-9-6**] 08:00 AM
   Fentanyl - [**2201-9-6**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-9-6**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 135 (130 - 147) bpm
   BP: 136/99(106) {121/65(70) - 155/110(120)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 24 (24 - 24)mmHg
   Total In:
                                                                  4,326 mL
                                                                  4,486 mL
   PO:
   TF:
   IVF:
                                                                  4,326 mL
                                                                  3,586 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                  1,335 mL
   Urine:
                                                                  1,060 mL
                                                                    985 mL
   NG:
                                                                    650 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,616 mL
                                                                  3,151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.29/50/109/25/-2
   Ve: 8.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Obese, hypoactive bs
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   13.3 g/dL
   282 K/uL
   252 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   11 mg/dL
   104 mEq/L
   139 mEq/L
   40.0 %
   26.7 K/uL
        [image002.jpg]
                             [**2201-9-5**]  07:46 PM
                             [**2201-9-6**]  01:58 AM
                             [**2201-9-6**]  02:29 AM
   WBC
   24.6
   26.7
   Hct
   40.0
   Plt
   282
   Cr
   0.7
   TCO2
   20
   25
   Glucose
   252
   Other labs: PT / PTT / INR:14.2/26.6/1.2, ALT / AST:[**Telephone/Fax (1) 1390**]
   (increasing), Alk Phos / T Bili:91/2.5, Amylase / Lipase:379/721
   (decreasing), Lactic Acid:2.3 mmol/L (down from 4), Albumin:3.8 g/dL,
   LDH:1300 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR today: cont'd small lung volumes
   Microbiology: Bd and Urine cultures pending
   Assessment and Plan
   Pancreatitis: Remains acutely ill, though lipase/amylase decreased and
   AG acidosis improved with massive resuscitation. Continue bowel rest,
   supportive care, serial LFT's. Surgery following.
   CT Abd
   Acute respiratory failure: RR on vent increased after most recent ABG
   demonstrating resp acidosis. Will recheck ABG and adjust vent settings
   as needed.
   Sedation: Currently on Midazolam, Fentanyl, Propofol gtt.
     Suspect high sedation requirement due to chronic medicines (klonipin
   10mg daily/oxycodone/methadone at baseline) and EtOH withdrawal
     Increase Fentanyl/Midazolam and wean propofol off as tolerated
   Acidosis: resolved, continue to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-9-5**] 06:37 PM
   18 Gauge - [**2201-9-5**] 08:30 PM
   Multi Lumen - [**2201-9-5**] 11:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill